US07884101B2
N-[3-(2-methyl-2H-pyrazol-3-yl)-4-(2-piperidin-1-yl-ethoxy)-phenyl]-acetamide (1.0 g, 2.92 mmol) was dissolved in ethanol (15 mL) then aqueous sodium hydroxide (2.5 mL, 50% w/w) was added and the reaction mixture stirred at 80° C. overnight then concentrated. Water and brine were added then extracted with EtOAc three times. The organic layers were combined, dried over anhydrous Na2SO4 then solvent removed under reduced pressure to afford 3-(2-methyl-2H-pyrazol-3-yl)-4-(2-piperidin-1-yl-ethoxy)-phenylamine as a brown oil in 97.1% yield.

reactant | N-[3-(2-methyl-2H-pyrazol-3-yl)-4-(2-piperidin-1-yl-ethoxy)-phenyl]-acetamide | 2.92 mmol, 1.0 g | CN1N=CC=C1C=1C=C(C=CC1OCCN1CCCCC1)NC(C)=O | C19H26N4O2
reactant | sodium hydroxide | 2.5 mL | [OH-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 3-(2-methyl-2H-pyrazol-3-yl)-4-(2-piperidin-1-yl-ethoxy)-phenylamine | 97.1% yield | CN1N=CC=C1C=1C=C(C=CC1OCCN1CCCCC1)N | C17H24N4O
